US07807709B2
(3S,4R)-3-[(Benzyl-ethyl-carbamoyloxy)-methyl]-4-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester
To a stirred solution of (3S,4R)-3-hydroxymethyl-4-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (250 mg, 0.505 mmol) in CH2Cl2 (10 mL) is added triphosgen (56 mg, 0.187 mmol) and DMAP (197 mg, 1.62 mmol). The resulting solution is stirred 30 min before the addition of commercially available N-ethylbenzylamine (113 μL, 0.758 mmol). The mixture is further stirred overnight, then diluted with CH2Cl2 and poured into an aqueous saturated solution of NaHCO3. The layers are separated and the aqueous one extracted twice with CH2Cl2. The combined organic extracts are dried over Na2SO4, filtered and concentrated. The crude material is purified by flash chromatography on silica gel (eluent: CH2Cl2/MeOH 100:0 to 98:2). TLC, Rf (CH2Cl2/MeOH 95:5)=0.2. MS (LC-MS): 655.9 [M+H]+; tR (HPLC, Macherey-Nagel Nucleosil C18 column, 10-100% CH3CN/H2O/5 min, 100% CH3CN/3 min, CH3CN and H2O containing 0.1% TFA, flow: 1.5 mL/min): 6.36 min.

reactant | (3S,4R)-3-hydroxymethyl-4-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.505 mmol, 250 mg | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)CN(C(C1=CC(=C(C=C1)OC)OCCCOC)=O)C(C)C)CO | C26H42N2O7
reactant | triphosgen | 0.187 mmol, 56 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | N-ethylbenzylamine | 0.758 mmol, 113 μL | C(C)NCC1=CC=CC=C1 | C9H13N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 1.62 mmol, 197 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | (3S,4R)-3-[(Benzyl-ethyl-carbamoyloxy)-methyl]-4-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)CN(C(C1=CC(=C(C=C1)OC)OCCCOC)=O)C(C)C)COC(N(CC)CC1=CC=CC=C1)=O | C36H53N3O8
